US07981879B2
Step 2: Methyl 5-(benzoyloxy)-2-{2-(benzyloxy)-1-[(tert-butoxycarbonyl)amino]ethyl}-6-hydroxypyrimidine-4-carboxylate
tert-Butyl [(2E)-2-amino-1-[(benzyloxy)methyl]-2-(hydroxyimino)ethyl]carbamate prepared as described in Step 1 was dissolved in chloroform and treated with 1.2 eq. of dimethylacetylenedicarboxylate and the reaction was refluxed for 2.5 hours. After cooling at room temperature, the reaction mixture was concentrated and the solvent switched to xylene. The mixture was heated at 145° C. for 24 hours. After cooling at room temperature, solid material was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in dry CH2Cl2 then dry pyridine was added and finally benzoic anhydride (1.1 eq.). The mixture was stirred at room temperature overnight, then the solvent was removed by rotary evaporation and the residue taken in ethyl acetate was washed with 1 N HCl, sat. NaHCO3 and brine. Organic layer was separated, dried (Na2SO4), filtered and concentrated. The resulting residue was purified by flash chromatography (SiO2, eluting with 60/40 v/v petroleum ether/ethyl acetate), collection and evaporation of appropriate fractions afforded title product.

reactant | tert-Butyl [(2E)-2-amino-1-[(benzyloxy)methyl]-2-(hydroxyimino)ethyl]carbamate | N/C(/C(COCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=N/O | C15H23N3O4
reactant | dimethylacetylenedicarboxylate | 1.2 eq. | COC(=O)C#CC(=O)OC | C6H6O4
reactant | benzoic anhydride | 1.1 eq. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 5-(benzoyloxy)-2-{2-(benzyloxy)-1-[(tert-butoxycarbonyl)amino]ethyl}-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(=O)OC | C27H29N3O8
